US07816371B2
b. (R)-Methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate
(R)-methyl 3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoate (2.8 g, 0.0091 mol) was stirred with palladium 10% wt. on calcium carbonate (0.23 g, 0.00011 mol) in methanol (40 mL, 1 mol) under hydrogen (balloon) over 1 h at room temperature. The catalyst was filtered, the filtrate was concentrated to dryness and yielded a yellow oil. MS m/z 274.8 (M+H)+.

reactant | (R)-methyl 3-methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)butanoate | 0.0091 mol, 2.8 g | CC([C@H](C(=O)OC)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O)C | C15H16N2O5
reactant | methanol | 1 mol, 40 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (R)-Methyl 2-(5-amino-1-oxoisoquinolin-2(1H)-yl)-3-methylbutanoate | NC1=C2C=CN(C(C2=CC=C1)=O)[C@@H](C(=O)OC)C(C)C | C15H18N2O3
